US06620921B1
To a suspension of 1,2,3,5,6-penta-O-propanoyl-β-D-glucofuranose (2.0 g, 4.3 mmol) and uracil (730 mg, 6.5 mmol) in CH3CN (30 mL) was added N,O-bis(trimethylsilyl)acetamide (6.4 mL, 26.1 mmol) dropwise. The mixture was heated at 60° C. for 1 h by which time the suspension had dissolved. The mixture was cooled to 0° C. and trimethylsilyl trifluoromethanesulfonate (1.6 mL, 8.7 mmol) was added dropwise. After 5 h reflux, the solution was concentrated in vacuo to half the volume and cooled in an ice-bath. Saturated aqueous NaHCO3 (60 mL) was added and the mixture extracted with CH2Cl2 (60, 2×30 mL). The combined extracts were washed with brine, dried (MgSO4) and concentrated in vacuo. Flash silica chromatography of the residue, eluting with 1% CH3OH in CHCl3, gave 1-(2,3,5,6-tetra-O-propanoyl-β-D-glucofuranosyl)uracil as a colourless syrup (2.1 g, 96%), [α]D22=+14.6 (c 1.0 in CHCl3), (Found: C. 52.7; H, 6.1; N, 5.7. C22H30N2O11 requires C, 53.0; H, 6.1; N 5.6%); δH (CDCl3) 9.34 (1H, s, NH), 7.47 (1H, d, J 8.2, 6-H), 6.06 (1H, d, J 2.0, 1′-H), 5.82 (1H, d, J 8.2, 5-H), 5.45 l1H, d, J 3.3, 3′-H), 5.36 (1H, ddd, J 9.6, 5.4 and 2.4, 5′-H), 5.07 (1H, d, J 2.0, 2′-H), 4.61 (1H, dd, J 12.3 and 2.4, 6′a-H), 4.38 (1H, dd, J 9.6 and 3.3, 4′-H), 4.11 (1H, dd, J 12.3 and 5.4, 6′b-H), 2.45 (2H, qd, J 7.5 and 1.5, CH2), 2.36 (2H, q, J 7.5, CH2), 2.35 (2H, q, J 7.5, CH2), 2.29 (2H, q, J 7.5, CH2), 1.18 (3H, t, J 7.5, CH3), 1.15 (3H, t, J 7.5, CH3), 1.12 (3H, t, J 7.5, CH3), 1.10 (3H, t, J 7.5, CH3); δC (CDCl3) 174.3, 173.4, 172.8, 172.3 (4×C═O), 163.2 (3-C), 150.4 (2-C), 139.4 (6-C), 103.5 (5-C), 89.7 (1′-C), 80.6 (2′-C), 79.3 (4′-C), 73.5 (3′-C), 67.1 (5′-C), 63.2 (6′-C), 27.7, 27.6, 27.6, 27.5 (4×CH2), 9.4, 9.1, 9.1, 9.0 (4×CH3); m/z (FAB) 499.191398 (MH+, C22H31N2O11 requires 499.192785).

reactant | 1,2,3,5,6-penta-O-propanoyl-β-D-glucofuranose | 4.3 mmol, 2.0 g | C(CC)(=O)O[C@H]1[C@H](OC(CC)=O)[C@@H](OC(CC)=O)[C@H](O1)[C@H](OC(CC)=O)COC(CC)=O | C21H32O11
reactant | uracil | 6.5 mmol, 730 mg | N1C(=O)NC(=O)C=C1 | C4H4N2O2
reactant | N,O-bis(trimethylsilyl)acetamide | 26.1 mmol, 6.4 mL | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | trimethylsilyl trifluoromethanesulfonate | 8.7 mmol, 1.6 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
solvent | CH3CN | 30 mL | CC#N | C2H3N
product | 1-(2,3,5,6-tetra-O-propanoyl-β-D-glucofuranosyl)uracil | 2.1 g, 96% | C(CC)(=O)O[C@H]1[C@@H](O[C@@H]([C@@H]1OC(CC)=O)[C@H](OC(CC)=O)COC(CC)=O)N1C(=O)NC(=O)C=C1 | C22H30N2O11
